US07727983B2
(S)-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (5.1 mmol) was hydrolyzed and coupled with (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (5.85 mmol) according to general procedures B and A to provide (S)-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2.4 g). (S)-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.1 g) was dissolved in MeOH, Pd/C was added and the mixture stirred under balloon pressure of hydrogen for 1 h. Mixture was filtered through celite, washed with MeOH and EtOAc and concentrated to provide (S)-6-amino-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.06 g) which was used without further purification.

reactant | (S)-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 5.1 mmol | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)[N+](=O)[O-])O)C(=O)OC(C)(C)C | C16H20N2O7
reactant | (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 5.85 mmol | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)N)=O | C17H16N2O2
product | (S)-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.4 g | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)[N+](=O)[O-])O | C32H32N4O8
